US04752645
(F) (cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-3-methyl-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride
A solution of (cis)-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-methyl-2H-1-benzazepin-2-one (0.37 g, 1.32 mmol) in 13 ml of dry dimethylformamide was treated with sodium hydride (0.035 g, 1.45 mmol, room temperature, argon) and stirring at room temperature was continued for one-half hour. N,N-Dimethyl-2-chloroethylamine (0.92 ml of a 2.15M solution in toluene 1.97 mmol) was introduced and the reaction was carried out for 3 hours (85° C. oil bath). TLC indicated that reaction progress had stopped after 11/2 hours. More sodium hydride (0.02 g, 0.83 mmol) was added (room temperature) followed by more N,N-dimethyl-2-chloroethylamine solution (0.46 ml, 0.99 mmol). The reaction was continued at 85° C. (oil bath temperature) for 31/2 hours. Dimethylformamide was removed in vacuo. Ethyl acetate and water were added, the water layer was washed with ethyl acetate, the combined ethyl acetate layers were washed with water (2 times), brine, dried over sodium sulfate and evaporated in vacuo to yield 0.42 g of a yellow oil. Acidification with saturated hydrogen chloride/ether solution followed by evaporation in vacuo and subsequent trituration with ether (1 crop) yielded 0.37 g of an off-white solid. TLC of the mother liquor revealed the presence of unconsumed starting material. Recrystallization from ethyl acetate/methanol (2 crops) yielded 0.22 g of an off-white solid, melting point 211°-216° C., dec. (foaming).

reactant | (cis)-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-methyl-2H-1-benzazepin-2-one | 1.32 mmol, 0.37 g | COC1=CC=C(C=C1)[C@@H]1[C@@H](C(NC2=C(C1)C=CC=C2)=O)C | C18H19NO2
reactant | sodium hydride | 1.45 mmol, 0.035 g | [H-].[Na+]
reactant | N,N-Dimethyl-2-chloroethylamine | CN(C)CCCl | C4H10ClN
reactant | toluene | 1.97 mmol | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydride | 0.83 mmol, 0.02 g | [H-].[Na+]
reactant | N,N-dimethyl-2-chloroethylamine | 0.99 mmol, 0.46 ml | CN(C)CCCl | C4H10ClN
solvent | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | (cis)-1-[2-(Dimethylamino)ethyl]-1,3,4,5-tetrahydro-3-methyl-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one, monohydrochloride | 0.42 g | Cl.CN(CCN1C([C@H]([C@H](CC2=C1C=CC=C2)C2=CC=C(C=C2)OC)C)=O)C | InChI=1S/C22H28N2O2.ClH/c1-16-20(17-9-11-19(26-4)12-10-17)15-18-7-5-6-8-21(18)24(22(16)25)14-13-23(2)3;/h5-12,16,20H,13-15H2,1-4H3;1H/t16-,20-;/m0./s1
